US04053505
1,3,5-Tricarbethoxymethylhexahydro-1,3,5-triazine (5.76 parts) and di(4-methoxyphenyl)phosphite (15.3 parts containing 0.6 parts of 4-methoxyphenol) were mixed and heated to 80° C. for from 1/2 to 1 hour. Nuclear magnetic resonance spectral analysis indicated that a complete conversion to the ethyl N-[di(4-methoxyphenoxy)-phosphonomethyl]glycinate was obtained. The reaction mixture can then be diluted with 2 normal hydrochloric acid (225 ml) and heated to reflux for 2 hours. This reaction mixture is concentrated and then mixed with a mixture of water and methylene chloride. The water layer is then extracted with methylene chloride. The aqueous layer is concentrated to yield N-phosphonomethyl glycine.

reactant | 1,3,5-Tricarbethoxymethylhexahydro-1,3,5-triazine | C(=O)(OCC)CN1CN(CN(C1)CC(=O)OCC)CC(=O)OCC | C15H27N3O6
reactant | di(4-methoxyphenyl)phosphite | COC1=CC=C(C=C1)OP(OC1=CC=C(C=C1)OC)[O-]
reactant | ethyl N-[di(4-methoxyphenoxy)-phosphonomethyl]glycinate | COC1=CC=C(OC(NCC(=O)OCC)(P(=O)(O)O)OC2=CC=C(C=C2)OC)C=C1 | C19H24NO9P
solvent | hydrochloric acid | 225 ml | Cl | ClH
product | N-phosphonomethyl glycine | P(=O)(O)(O)CNCC(=O)O | C3H8NO5P
